US09328110B2
The general method described in Step 8 of Example 1 was used to oxidize 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-ol (3.54 g, 11.4 mmol) with DMSO (1.33 g, 17.1 mmol), oxalyl chloride (1.59 g, 12.5 mmol), and triethylamine (3.45 g, 34.1 mmol) to provide 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one (2.15 g) as a dark solid.

reactant | 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-ol | 11.4 mmol, 3.54 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(C)O | C19H25N3O
reactant | DMSO | 17.1 mmol, 1.33 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 12.5 mmol, 1.59 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 34.1 mmol, 3.45 g | C(C)N(CC)CC | C6H15N
product | 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one | 2.15 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(C)=O | C19H23N3O
